US07569600B2
To a solution of 5-(1,4-Dioxa-spiro[4.5]dec-7-en-8-yl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid (428 mg, 0.85 mmol) in THF (5 mL) was added 3N HCl (2.5 mL), and the mixture was heated at 40° C. for 5 h. Then it was diluted with CH2Cl2 (70 mL) and washed with brine and water. Organic fraction was dried over Na2SO4, concentrated under reduced pressure and the residue was purified by column chromatography on silica gel eluting with 0-10% MeOH in CH2Cl2 to give 278 mg (71%) of 3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(4-oxo-cyclohex-1-enyl)-thiophene-2-carboxylic acid.

reactant | 5-(1,4-Dioxa-spiro[4.5]dec-7-en-8-yl)-3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid | 0.85 mmol, 428 mg | O1CCOC12CC=C(CC2)C2=CC(=C(S2)C(=O)O)N(C(=O)[C@@H]2CC[C@H](CC2)C)[C@@H]2CC[C@H](CC2)O | C27H37NO6S
reactant | HCl | 3N, 2.5 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 70 mL | C(Cl)Cl | CH2Cl2
product | 3-[(trans-4-hydroxy-cyclohexyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(4-oxo-cyclohex-1-enyl)-thiophene-2-carboxylic acid | 278 mg, 71% | O[C@@H]1CC[C@H](CC1)N(C1=C(SC(=C1)C1=CCC(CC1)=O)C(=O)O)C(=O)[C@@H]1CC[C@H](CC1)C | C25H33NO5S
